US04246181
0.056 mole (8.56 g) 2-methyl-5-methoxy paraphenylenediamine is introduced into 850 cc isopropyl anhydrous ether to which there have been added 0.085 mole (19.7 g) silver oxide and 55 g anhydrous sodium sulfate. The mixture is agitated for two hours, maintaining the temperature thereof between 30° and 40°. After cooling, the sodium sulfate and silver are separated from the reaction mixture by filtration, and the resulting filtrate is evaporated to dryness under vacuum. The dry residue, after recrystallization from a mixture of benzene-hexane, furnishes 5.8 g 2-methoxy-5-methyl benzoquinone diimine, which has a melting point of 96°.

reactant | 2-methyl-5-methoxy paraphenylenediamine | 0.056 mole, 8.56 g | CC1=C(C=C(C(=C1)N)OC)N | C8H12N2O
reactant | sodium sulfate | 55 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
catalyst | silver oxide | 0.085 mole, 19.7 g | [Ag]=O
product | 2-methoxy-5-methyl benzoquinone diimine | 5.8 g | COC=1C(C=C(C(C1)=N)C)=N | C8H10N2O
